data/mechanism_extracts/OrgChemFront/10.1039_d1qo01175h.json
{"doi": "10.1039_d1qo01175h", "journal": "OrgChemFront", "is_review": false, "rxn_class_summary": "Electrochemical oxidative three-component cyclization of allylic alcohols, arylboronic acids, and dichalcogenides (RSeSeR/RSSR) to access chalcogenated cyclic boronic esters (1,3,2-dioxaborinanes) that are hydrolyzed to chalcogenated 1,3-diols.", "mechanism_family": ["mediator_anodic", "radical_anodic", "cation_initiated", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation generates the active chalcogenating species: in pathway I, Br- is oxidized to Br+ (Br2) which reacts with PhSeSePh to give electrophilic PhSeBr; in pathway II, direct anodic SET oxidation of PhSeSePh gives a diselenide radical cation that fragments to PhSe• + PhSe+. Protons are reduced at the Pt cathode to H2.", "key_intermediates": [{"name": "boronate ester I from condensation of cinnamyl alcohol and PhB(OH)2 (allyloxy-arylboronate)", "smiles": "OB(OCC=Cc1ccccc1)c1ccccc1", "role": "reactive"}, {"name": "PhSeBr electrophilic selenenyl bromide (pathway I)", "smiles": "[Se](Br)c1ccccc1", "role": "reactive"}, {"name": "seleniranium/β-selenocarbocation intermediate II on boronate scaffold (pathway I)", "smiles": null, "role": "transient"}, {"name": "diphenyl diselenide radical cation [PhSe-SePh]•+ (pathway II)", "smiles": null, "role": "transient"}, {"name": "phenylselenyl radical PhSe•", "smiles": "[Se]c1ccccc1", "role": "reactive"}, {"name": "phenylselenyl cation PhSe+", "smiles": null, "role": "reactive"}, {"name": "carbon-centered β-selenoalkyl radical III on boronate scaffold (pathway II)", "smiles": null, "role": "transient"}, {"name": "β-selenoalkyl cation IV after anodic oxidation of III (pathway II)", "smiles": null, "role": "reactive"}, {"name": "chalcogenated 1,3,2-dioxaborinane product 4a", "smiles": null, "role": "reactive"}], "electron_flow": "Allylic alcohol and ArB(OH)2 condense (TFA) to an allyloxy boronate I; in parallel, the anode oxidizes either Br- (to Br+/Br2, which converts PhSeSePh to PhSeBr) or PhSeSePh directly to a radical cation that cleaves to PhSe• + PhSe+. The electrophilic/radical Se species adds to the tethered alkene of I to give a seleniranium (cationic, pathway I) or a C-radical that is anodically oxidized to a cation (pathway II); intramolecular trapping by the pendant B-OH oxygen closes the six-membered cyclic boronate 4a, while protons are reduced to H2 at the Pt cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Yield of 3a/4a decreased to 20% with 2 equiv TEMPO, indicating radical involvement."}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Yield dropped to 28% with 2 equiv BHT, consistent with radical intermediates."}, {"name": "p-benzoquinone (BQ)", "smiles": "O=C1C=CC(=O)C=C1", "purpose": "radical_trap", "observation": "Yield dropped to 22% with 2 equiv BQ, supporting a radical pathway."}, {"name": "PhSeBr (stoichiometric, no current)", "smiles": "[Se](Br)c1ccccc1", "purpose": "intermediate_trap", "observation": "Reaction of cinnamyl alcohol + PhB(OH)2 + PhSeBr without electricity gave 4a in 78% yield, supporting PhSeBr as the active electrophile in pathway I."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "stoichiometric_intermediate"], "evidence_strength": "medium", "notes": "Two mechanisms are proposed and presented as co-existing: pathway I (Br+/PhSeBr-mediated electrophilic seleniranium, cation-initiated cyclization) is supported by the control experiment with stoichiometric PhSeBr giving 4a in 78% without current. Pathway II (direct anodic oxidation of PhSeSePh to a radical cation, generating PhSe• + PhSe+, radical addition then anodic oxidation to a cation — a radical-polar crossover) is supported by partial inhibition with TEMPO/BHT/BQ. The authors do not unambiguously favor one pathway over the other."}
